US08802664B2
To a solution of 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)-methyl]phenyl}but-3-ynylamine (50 mg) in methanol (2.5 mL) is added platinum oxide (8 mg). The flask is purged with argon then put under one atmosphere of hydrogen. The reaction mixture is stirred overnight at room temperature then filtered on celite, cake washed with methanol. The solvent is removed under reduced pressure to give 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenyl}butylamine.

reactant | 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)-methyl]phenyl}but-3-ynylamine | 50 mg | N1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)C#CCCN)OC2CCN(CC2)C | C24H28N4O
solvent | methanol | 2.5 mL | CO | CH4O
catalyst | platinum oxide | 8 mg | [Pt]=O
product | 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenyl}butylamine | N1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)CCCCN)OC2CCN(CC2)C | C24H32N4O
